US07825253B2
N2-(2-Methoxy-benzyl)-N5-pyridin-4-ylmethyl-quinoline-2,5-diamine
The title compound, MS: m/e=371.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 2-methoxybenzylamine and 4-picolylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | 4-picolylamine | N1=CC=C(C=C1)CN | C6H8N2
product | N2-(2-Methoxy-benzyl)-N5-pyridin-4-ylmethyl-quinoline-2,5-diamine | COC1=C(CNC2=NC=3C=CC=C(C3C=C2)NCC2=CC=NC=C2)C=CC=C1 | C23H22N4O
